US08808703B2
Step 2: benzyl 6-aminohexanoate hydrochloride
To a solution of benzyl 6-(tert-butoxycarbonylamino)hexanoate (1 eq) in DCM (0.17 M) was added 4M HCl in dioxane (30 eq). The resulting mixture was stirred at room temperature for 1 hour. The mixture was concentrated en vaccuo. The crude material was dissolved in DCM and precipitated in diethyl ether to give the product as a white solid.

reactant | benzyl 6-(tert-butoxycarbonylamino)hexanoate | 1 eq | C(C)(C)(C)OC(=O)NCCCCCC(=O)OCC1=CC=CC=C1 | C18H27NO4
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 30 eq | O1CCOCC1 | C4H8O2
solvent | DCM | 0.17 M | C(Cl)Cl | CH2Cl2
product | benzyl 6-aminohexanoate hydrochloride | Cl.NCCCCCC(=O)OCC1=CC=CC=C1 | InChI=1S/C13H19NO2.ClH/c14-10-6-2-5-9-13(15)16-11-12-7-3-1-4-8-12;/h1,3-4,7-8H,2,5-6,9-11,14H2;1H
